US07833995B2
Ethyl 3-hydroxy-3-methyloctanoate (Compound 37)
To a solution of 2-heptanone (10.1 mL) in 1,4-dioxane (150 mL) were added ethyl bromoacetate (9.6 mL), zinc (8.5 g) and iodine (3.7 g) at room temperature and the solution was sonicated. After 2 hours 1N hydrochloric acid was added dropwise to the reaction solution, which was extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate and concentrated. The obtained residue purified by flush column chromatography (n-hexane:ethyl acetate=15:1), to give the title compound (13.9 g) having the following physical data.

reactant | 2-heptanone | 10.1 mL | CC(CCCCC)=O | C7H14O
reactant | ethyl bromoacetate | 9.6 mL | BrCC(=O)OCC | C4H7BrO2
reactant | iodine | 3.7 g | II | I2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
catalyst | zinc | 8.5 g | [Zn] | Zn
product | Ethyl 3-hydroxy-3-methyloctanoate | 13.9 g | OC(CC(=O)OCC)(CCCCC)C | C11H22O3
